US05506228
The reaction of 429 mg of 1-[(phenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone, 375 ul of ethylcyanoacetate and 178 mg of ammonium acetate as in Example 55, yielded 165 mg of 6-[(phenyl)thio]- 2,3-dihydro-2-(4-methoxyphenyl)-5-methyl-3-oxo-4-pyridazinecarbonitrile, mp 179°-180° C. (EtOH).

reactant | 1-[(phenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone | 429 mg | C1(=CC=CC=C1)SC(C(C)=O)=NNC1=CC=C(C=C1)OC | C16H16N2O2S
reactant | ethylcyanoacetate | 375 ul | C(C)OC(CC#N)=O | C5H7NO2
reactant | ammonium acetate | 178 mg | C(C)(=O)[O-].[NH4+]
solvent | EtOH | CCO | C2H6O
product | 6-[(phenyl)thio]- 2,3-dihydro-2-(4-methoxyphenyl)-5-methyl-3-oxo-4-pyridazinecarbonitrile | 165 mg | C1(=CC=CC=C1)SC=1C(=C(C(N(N1)C1=CC=C(C=C1)OC)=O)C#N)C | C19H15N3O2S
